US07858621B2
Step 1: 3-(2-phenylthio-6-trifluoromethyl-pyridin-3-yl)-acrylic acid
3-(2-phenylthio-6-trifluoromethyl-pyridin-3-yl)-acrylic acid methyl ester (80 mg) was hydrolyzed with 1 M LiOH solution (3 mmol) at room temperature to yield the title compound (63 mg)

reactant | 3-(2-phenylthio-6-trifluoromethyl-pyridin-3-yl)-acrylic acid methyl ester | 80 mg | COC(C=CC=1C(=NC(=CC1)C(F)(F)F)SC1=CC=CC=C1)=O | C16H12F3NO2S
reactant | LiOH | 3 mmol, 1 M | [Li+].[OH-]
product | 3-(2-phenylthio-6-trifluoromethyl-pyridin-3-yl)-acrylic acid | 63 mg | C1(=CC=CC=C1)SC1=NC(=CC=C1C=CC(=O)O)C(F)(F)F | C15H10F3NO2S
